US06632811B2
Synthesis of N-(3,4-dichlorophenyl)alanine tert-butyloxycarbonylmethyl ester
Following General Procedure AE above and using N-(3,4-dichlorophenyl)alanine (from Example AB above) and tert-butyl bromoacetate (Aldrich), the title compound was prepared as a solid. The reaction was monitored by silica gel tlc (Rf=0.57 in 25% EtOAc/hexanes). Purification was by recrystallization from ethanol.

reactant | N-(3,4-dichlorophenyl)alanine | ClC=1C=C(C=CC1Cl)N[C@@H](C)C(=O)O | C9H9Cl2NO2
reactant | tert-butyl bromoacetate | BrCC(=O)OC(C)(C)C | C6H11BrO2
product | N-(3,4-dichlorophenyl)alanine tert-butyloxycarbonylmethyl ester | C(C)(C)(C)OC(=O)COC([C@@H](NC1=CC(=C(C=C1)Cl)Cl)C)=O | C15H19Cl2NO4
